US06479424B1
A 1 L three-neck round bottom flask equipped with a condenser, magnetic stir bar, nitrogen inlet, and a thermometer was charged with 5-bromo-1-indanol (56.5 g, 0.265 mol), toluene (300 mL), pyridine (250 mL, 3.1 mol), and p-toluenesulfonyl chloride (55.3 g, 0.29 mol). The mixture was stirred and heated to reflux while dehydration progress was followed by GC. After 7 hours at reflux the dark colored reaction mixture was cooled, quenched by pouring over ice-water (700 mL) containing HCl (12M, 200 mL) and extracted several times with diethyl ether (3×250 mL). The combined diethyl ether extracts were washed repeatedly with water, 5% sodium bicarbonate (aqueous), and water then dried over anhydrous magnesium sulfate. Evaporation of diethyl ether followed by vacuum distillation (80° C./0.5 mm Hg) gave 5-bromoindene (24.0 g, 99+% purity by GC) as a colorless oil. 1HNMR (CD2Cl2, 500 MHz) δ7.59 (br s, 1H); 7.38 (dd, JAB=1.5, 8 Hz, 1H), 7.26 (d, JAB=8 Hz, 1H); 6.84 (m, 1H); 6.56 (m, 1H); 3.39 (s, 2H).

reactant | 5-bromo-1-indanol | 0.265 mol, 56.5 g | BrC=1C=C2CCC(C2=CC1)O | C9H9BrO
reactant | pyridine | 3.1 mol, 250 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.29 mol, 55.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromoindene | 24.0 g | BrC=1C=C2C=CCC2=CC1 | C9H7Br
